US07449475B2
tert-butyl 2-[(2S)-oxiran-2-ylmethoxy]benzoate
A mixture of tert-butyl salicylate (2.01 g, 10.3 mmol), (2S)-oxiran-2-ylmethyl 3-nitrobenzenesulfonate (2.69 g, 10.4 mmol) and cesium carbonate (4.05 g, 12.4 mmol) in dimethylformamide (20 mL) was stirred at room temperture overnight. The reaction mixture was partitioned between ethyl acetetate and water. The organic layer was dried over sodium sulphate, Na2SO4, filtered, concentrated in vacuo. The residue was purified by silica gel flash chromatography (ethyl acetate 40%, heptane 60%) and gave the subtitle compound (2.3 g, 89%).

reactant | tert-butyl salicylate | 10.3 mmol, 2.01 g | C(C=1C(O)=CC=CC1)(=O)OC(C)(C)C | C11H14O3
reactant | (2S)-oxiran-2-ylmethyl 3-nitrobenzenesulfonate | 10.4 mmol, 2.69 g | [N+](=O)([O-])C=1C=C(C=CC1)S(=O)(=O)OC[C@H]1OC1 | C9H9NO6S
reactant | cesium carbonate | 12.4 mmol, 4.05 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | dimethylformamide | 20 mL | CN(C=O)C | C3H7NO
product | tert-butyl 2-[(2S)-oxiran-2-ylmethoxy]benzoate | 2.3 g, 89% | O1[C@@H](C1)COC1=C(C(=O)OC(C)(C)C)C=CC=C1 | C14H18O4
